US06825208B2
(4-Amino-benzyl)-carbamic acid tert-butyl ester (307 mg, 1.4 mmole) was dissolved in acetonitrile (approx. 5 mL). The solution was treated with 5-hydroxy-4,2′,6′-trimethoxy-biphenyl-2-carbaldehyde (390 mg, 1.4 mmole) and indene (157 mg, 1.4 mmole). Indium triflate (1.2 g, 2.2 mmole) was added and the reaction was heated at 70° C. for 18 hours to give 6-(2-Aminomethyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-4,2′,6′-trimethoxy-biphenyl-3-ol which was then purified using reverse phase HPLC. Mass spectrum 491 (M−17); in the presence of 0.1M ammonium acetate 507 (M−1) observed for negative ion mode.

reactant | (4-Amino-benzyl)-carbamic acid tert-butyl ester | 1.4 mmole, 307 mg | C(C)(C)(C)OC(NCC1=CC=C(C=C1)N)=O | C12H18N2O2
reactant | 5-hydroxy-4,2′,6′-trimethoxy-biphenyl-2-carbaldehyde | 1.4 mmole, 390 mg | OC1=C(C=C(C(=C1)C1=C(C=CC=C1OC)OC)C=O)OC | C16H16O5
reactant | indene | 1.4 mmole, 157 mg | C1C=CC2=CC=CC=C12 | C9H8
reactant | Indium triflate | 2.2 mmole, 1.2 g | [O-]S(=O)(=O)C(F)(F)F.[In+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
solvent | acetonitrile | approx. 5 mL | C(C)#N | C2H3N
product | 6-(2-Aminomethyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-4,2′,6′-trimethoxy-biphenyl-3-ol | NCC=1C=C2C3C(C(NC2=CC1)C1=CC(=C(C=C1C1=C(C=CC=C1OC)OC)O)OC)CC1=CC=CC=C13 | C32H32N2O4
